US07157491B2
7-(4-Hydroxyphenyl)-benzofuran-5-carbaldehyde oxime
To a 25 ml round bottom flask was added 7-(4-hydroxyphenyl)-benzofuran-5-carbaldehyde (400 mg, 1.68 mmol), hydroxylamine hydrochlorode (234 mg, 3.36 mmol), anhydrous MeOH (10.4 ml), and anhydrous pyridine (0.272 ml, 3.36 mmol). The reaction was then heated to 68° C. and the reaction was brought to reflux for 1 h. The reaction was then cooled to room temperature, dilute with ether, and the layers separated. The ether layer was washed with water, dried over anhydrous Na2SO4, passed through a silica plug, and concentrated to 410 mg (96%) product as a yellow solid. The crude material was pure by 1H NMR (−4% cis isomer was detected) and LC-MS (one peak): mp 192–194° C. 1H NMR (300 MHz, DMSO-d6): δ 6.92 (2H, d, J=8.6 Hz), 7.05 (1H, d, J=2.2 Hz), 7.69–7.72 (3H, m), 7.79 (1H, d, J=1.4 Hz), 8.09 (1H, d, J=1.1 Hz), 8.27 (1H, s), 9.74 (1H, s), 11.14 (1H, s); MS (ESI) m/z 254 ([M+H]+).

reactant | 7-(4-hydroxyphenyl)-benzofuran-5-carbaldehyde | 1.68 mmol, 400 mg | OC1=CC=C(C=C1)C1=CC(=CC=2C=COC21)C=O | C15H10O3
reactant | hydroxylamine | NO | H3NO
reactant | MeOH | 10.4 ml | CO | CH4O
reactant | pyridine | 3.36 mmol, 0.272 ml | N1=CC=CC=C1 | C5H5N
solvent | ether | CCOCC | C4H10O
product | 7-(4-Hydroxyphenyl)-benzofuran-5-carbaldehyde oxime | OC1=CC=C(C=C1)C1=CC(=CC=2C=COC21)C=NO | C15H11NO3
